US07071193B2
(a) 2,6-bis[[(2,3-difluorophenyl)methyl]thio]-4,5-pyrimidinediamine
To a solution of potassium hydroxide powder (7.72 g) in methanol (250 ml) was added first 5,6-diamino-2,4-pyrimidinedithiol (10.9 g) followed by 2,3-difluorobenzyl bromide (22.5 g). The reaction mixture was stirred for one hour at room temperature then poured into water (500 ml), giving a brown precipitate. This was isolated by filtration, washing with isopropanol and diethyl ether, to give the subtitled compound as a pale brown solid (15.0 g).

reactant | potassium hydroxide | 7.72 g | [OH-].[K+]
reactant | 5,6-diamino-2,4-pyrimidinedithiol | 10.9 g | NC=1C(=NC(=NC1N)S)S | C4H6N4S2
reactant | 2,3-difluorobenzyl bromide | 22.5 g | FC1=C(CBr)C=CC=C1F | C7H5BrF2
reactant | water | 500 ml | O | H2O
solvent | methanol | 250 ml | CO | CH4O
product | 2,6-bis[[(2,3-difluorophenyl)methyl]thio]-4,5-pyrimidinediamine | 15.0 g | FC1=C(C=CC=C1F)CSC1=NC(=C(C(=N1)N)N)SCC1=C(C(=CC=C1)F)F | C18H14F4N4S2
